US06107329
2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid
Aqueous 2M LiOH (33.10 ml) was added to a solution of (2S)-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid methyl ester (21.47 g, 60 mmol) in THF (140 ml) at 0-5° C. After 0.5 hour, the mixture was partially concentrated, acidified to pH 1-2 with 6N HCl, concentrated to dryness, and the solids washed with water and then etherto yield a colorless solid (18.78g,91%): mp 248-255° C.; HPLC (60/40) 5.21 minutes (98%); TSPMS 343/345 (MH+, 100%).

reactant | LiOH | 2M, 33.10 ml | [Li+].[OH-]
reactant | (2S)-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid methyl ester | 60 mmol, 21.47 g | COC([C@H](CC1=CC=CC=C1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C19H17ClN2O3
solvent | THF | 140 ml | C1CCOC1 | C4H8O
product | 2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid | 18.78g, 91% | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)O)CC1=CC=CC=C1 | C18H15ClN2O3
